US07524823B2
C] Preparation of 3-(2-Chloro-ethoxymethyl)-3H-imidazo[4,5-b]pyridine
To a suspension of 0.63 g (3.26 mmol) 2-(3H-imidazo[4,5-b]pyridin-3-ylmethoxy)-ethanol and 1.71 g (6.52 mmol) triphenylphosphine in 10 ml pyridine kept under argon were added dropwise over 10 min. 0.32 ml (3.32 mmol) CCl4. The suspension was stirred at room temperature for 18 hours and concentrated in vacuo. The crude product was purified by flash chromatography (silica gel, gradient DCM→DCM/MeOH 9/1) and triturated with diethylether to afford 0.7 g of a brownish solid. MS(ISP): 212.1 [MH]+.

reactant | 2-(3H-imidazo[4,5-b]pyridin-3-ylmethoxy)-ethanol | 3.26 mmol, 0.63 g | N1=CN(C2=NC=CC=C21)COCCO | C9H11N3O2
reactant | triphenylphosphine | 6.52 mmol, 1.71 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | CCl4 | 3.32 mmol, 0.32 ml | C(Cl)(Cl)(Cl)Cl | CCl4
solvent | pyridine | 10 ml | N1=CC=CC=C1 | C5H5N
product | 3-(2-Chloro-ethoxymethyl)-3H-imidazo[4,5-b]pyridine | 0.7 g | ClCCOCN1C=NC=2C1=NC=CC2 | C9H10ClN3O
